US05620997
(S)-4-Methyl-2-(6-methyl-3-oxo-3h-benzo[d]isothiazol-2-yl)-pentanoic acid
Following the general method of Example 3, a slurry of [s-(R*,R*)]-2-[-[2-(1-carboxy-3-methylbutylcarbamoyl)-4-methylphenyldisulfanyl]-5-methylbenzoylamino]-4-methyl-pentanoic acid (1.8 g, 3.2 mmol) (from Preparation 22) in 5 mL acetonitrile and 20 mL dichloromethane was reacted with bromine (0.6 g, 3.7 mmol) in 10 mL dichloromethane. The crude product was recrystallized from methanol/water to afford 1.3 g of the title compound.

reactant | 2-[-[2-(1-carboxy-3-methylbutylcarbamoyl)-4-methylphenyldisulfanyl]-5-methylbenzoylamino]-4-methyl-pentanoic acid | 3.2 mmol, 1.8 g | C(=O)(O)C(CC(C)C)NC(=O)C1=C(C=CC(=C1)C)SSN(C(C(=O)O)CC(C)C)C(C1=CC=CC(=C1)C)=O | C28H36N2O6S2
reactant | bromine | 3.7 mmol, 0.6 g | BrBr | Br2
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-4-Methyl-2-(6-methyl-3-oxo-3h-benzo[d]isothiazol-2-yl)-pentanoic acid | 1.3 g | CC(C[C@@H](C(=O)O)N1SC2=C(C1=O)C=CC(=C2)C)C | C14H17NO3S
